US04833164
4-Benzoyl-2-(phenylmethyl)-1-naphthol
A mixture of aluminum chloride (1.25 g, 9.4 mmole) in methylene chloride (25 mL) was stirred at 0° and treated dropwise with benzoyl chloride (1.1 mL, 9.4 mmole) and stirred for 5 minutes. A solution of 2-(phenylmethyl)-1-naphthol (2.0 g, 8.5 mmole) in methylene chloride (6 mL) was added dropwise over 15 minutes, and stirring was continued at 0° for 3 hours. The mixture was poured into 1.0N hydrochloric acid, and the crude product was isolated by extraction with methylene chloride. Recrystallization from toluene provided the title compound (1.15 g, 40%) as pale yellow crystals, mp 152°-155°.

reactant | aluminum chloride | 9.4 mmole, 1.25 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | benzoyl chloride | 9.4 mmole, 1.1 mL | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | 2-(phenylmethyl)-1-naphthol | 8.5 mmole, 2.0 g | C1(=CC=CC=C1)CC1=C(C2=CC=CC=C2C=C1)O | C17H14O
reactant | hydrochloric acid | 1.0N | Cl | ClH
solvent | methylene chloride | 25 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 6 mL | C(Cl)Cl | CH2Cl2
product | 4-Benzoyl-2-(phenylmethyl)-1-naphthol | 1.15 g, 40% | C(C1=CC=CC=C1)(=O)C1=CC(=C(C2=CC=CC=C12)O)CC1=CC=CC=C1 | C24H18O2
